US06342765B1
(2S)-2-{5-[1-(4-Fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyric acid
A solution of methyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate (140 mg, 0.24 mmol) in methanol (5 ml) was treated with sodium hydroxide (190 mg, 4.7 mmol) in water (1 ml) and the mixture stirred at ambient temperature for 6 hours. The mixture was acidified to PH1 with 1M HCl and evaporated to dryness. The residue was washed with water (3×2 mL) and the resulting gum was triturated with diethyl ether to give the title compound as a white solid (43 mg). 1H NMR (DMSO-d6, 300 MHz) δ: 1.85-2.05 (5H,m); 2.4-2.6 (signed partially obscured by solvent signals, m); 2.6-2.75 (2H,m); 2.75-2.86 (2H,m); 4.4-4.48 (1H, m); 4.64.7 (2H,m); 5.82 (1H,t); 6.76-6.86 (2H,m); 6.96-7.08 (3H,m); 7.12-7.28 (4H,m); 7.44-7.5 (2H,dd); 7.62 (1H,s); 7.69 (1H,s); 8.58 (1H,t); 9.12 (1H,s). MS (ES+) m/z 580.3 (MH+) Anal.calculated for C31H31F2N3O4S.HCl.0.9NaCl C, 55.7; H, 4.8; N, 6.3%; Found: C, 55.9; H, 4.8; N, 6.1%.

reactant | methyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate | 0.24 mmol, 140 mg | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC)CCSC)C1)CCC1=CC=C(C=C1)F | C32H33F2N3O4S
reactant | sodium hydroxide | 4.7 mmol, 190 mg | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | (2S)-2-{5-[1-(4-Fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyric acid | 43 mg | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)O)CCSC)C1)CCC1=CC=C(C=C1)F | C31H31F2N3O4S
